US07329662B2
3-(2,6-Dimethyl-pyridin-4-yl)-5-(3-ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3-ethoxy-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (164 mg, 0.5 mmol), prepared from 3-ethoxy-4-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2,6-dimethyl-pyridine, CAS No. 130138-46-4, as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (94 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (120 mg, 50%). MS (ISP) 481.4 [(M+H)+]; mp 257° C.

reactant | 1-(3-ethoxy-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 164 mg | C(C)OC=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O | C13H10F6O3
reactant | 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole | 0.5 mmol, 94 mg | NC1=NNC=C1C1=CC(=NC(=C1)C)C | C10H12N4
product | 3-(2,6-Dimethyl-pyridin-4-yl)-5-(3-ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 120 mg, 50% | CC1=NC(=CC(=C1)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC)C | C23H18F6N4O
